US06586422B2
In analogy to the procedure described in example 4 the 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile was reacted with (2-aminoethyl)-carbamic acid tert-butyl ester in dioxane at 120° C. overnight to give {2-[6-cyano-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester as a white solid; MS: 410 (M+H)+.

reactant | 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | CSC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C15H15N5S
reactant | (2-aminoethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | {2-[6-cyano-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N)=O | C21H27N7O2
